US06017675
α-(n-Octylsulfonyloxyimino)-3,4-dimethoxybenzyl cyanide
As described under 1.2, 10.3 g (0.05 mol) of α-hydroxyimino-3,4-dimethoxybenzyl cyanide are reacted with 11.7 g (0.055 mol) of 1-octanesulfonyl chloride in the presence of triethylamine. After recrystallisation of the crude product from ethyl acetate/hexane, 19.1 g (87%) of α-(n-octylsulfonyloxyimino)-3,4-dimethoxybenzyl cyanide are obtained in the form of beige crystals having a melting point of 72-75° C. The 1H-NMR spectrum of the compound shows that it is a pure stereoisomer. The UV spectrum (acetonitrile) of the substance shows a broad absorption band with a maximum at 349 nm (ε=11330) that extends to 435 nm. Elemental analysis: C18H26N2O5S (382.48)

reactant | α-hydroxyimino-3,4-dimethoxybenzyl cyanide | 0.05 mol, 10.3 g | ON=C(C1=CC(=C(C=C1)OC)OC)C#N | C10H10N2O3
reactant | 1-octanesulfonyl chloride | 0.055 mol, 11.7 g | C(CCCCCCC)S(=O)(=O)Cl | C8H17ClO2S
reactant | triethylamine | C(C)N(CC)CC | C6H15N
solvent | acetonitrile | C(C)#N | C2H3N
product | α-(n-Octylsulfonyloxyimino)-3,4-dimethoxybenzyl cyanide | C(CCCCCCC)S(=O)(=O)ON=C(C1=CC(=C(C=C1)OC)OC)C#N | C18H26N2O5S
